US07871998B2
Ethyl ({[2-(4-chlorophenyl)-5,5-dimethyl-1,3-dioxan-2-yl]methyl}thio)acetate
Ethyl {[2-(4-chlorophenyl)-2-oxoethyl]thio}acetate (8.15 g, 29.9 mmol) was dissolved in toluene (165 ml). 2,2-Dimethyl-1,3-propanediol (24.8 g, 238 mmol) and p-toluene sulfonic acid (300 mg) were added. The mixture was stirred at reflux in a Dean-Stark apparatus for 2.5 h and concentrated under reduced pressure. The crude product was dissolved in CH2Cl2. The mixture was washed with H2O (3×), brine, dried (Na2SO4) and concentrated under reduced pressure. The residue was purified by flash-chromatography (Hexane:EtOAc 9:1) to give 3.36 g (31%) of the title compound as an yellow oil. MS (CI) M/z: 381.0 (M++Na, 100), 382.0 (15), 383.0 (30), 384 (5)

reactant | Ethyl {[2-(4-chlorophenyl)-2-oxoethyl]thio}acetate | 29.9 mmol, 8.15 g | ClC1=CC=C(C=C1)C(CSCC(=O)OCC)=O | C12H13ClO3S
reactant | 2,2-Dimethyl-1,3-propanediol | 238 mmol, 24.8 g | CC(CO)(CO)C | C5H12O2
reactant | p-toluene sulfonic acid | 300 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | toluene | 165 ml | C1(=CC=CC=C1)C | C7H8
product | Ethyl ({[2-(4-chlorophenyl)-5,5-dimethyl-1,3-dioxan-2-yl]methyl}thio)acetate | 3.36 g, 31% | ClC1=CC=C(C=C1)C1(OCC(CO1)(C)C)CSCC(=O)OCC | C17H23ClO4S
